US06214996B1
To a suspension of 1-(4-pyridyl)-2,3-bis(methoxycarbonyl)-6,7-dimethoxynaphthalen, N-oxide (1.99 g) in toluene (10 ml) is added 2-chloroquinoline (3.27 g). To the mixture is added five drops of a 30 % solution of hydrogen bromide in acetic acid, and the mixture is refluxed for 15 hours. After the mixture is concentrated under reduced pressure to remove the solvent, water and methylene chloride are added to the residue. The pH value e of the mixture is adjusted to pH 8 with an aqueous sodium hydrogen carbonate solution. The mixture is extracted with methylene chloride, and the extract is washed, dried and concentrated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform:acetone=4:1) to give 1-[2-(2-oxo-1,2-dihydroquinolin-1-yl)-4-pyridyl]-2,3-bis(methoxycarbonyl)-6,7-dimethoxynaphthalene (2.60 g).

reactant | 1-(4-pyridyl)-2,3-bis(methoxycarbonyl)-6,7-dimethoxynaphthalen | N1=CC=C(C=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)C(=O)OC)C(=O)OC | C21H19NO6
reactant | 2-chloroquinoline | 3.27 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(2-oxo-1,2-dihydroquinolin-1-yl)-4-pyridyl]-2,3-bis(methoxycarbonyl)-6,7-dimethoxynaphthalene | 2.60 g | O=C1N(C2=CC=CC=C2C=C1)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)C(=O)OC)C(=O)OC | C30H24N2O7
